US04017492
In the manner given in Example 13, 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be stirred with 4-(dimethylamino)-2-oxobutanoic acid at room temperature to give 7-chloro-2-[[1-carboxy-3-(dimethylamino)propylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12Cl2N4
reactant | 4-(dimethylamino)-2-oxobutanoic acid | CN(CCC(C(=O)O)=O)C | C6H11NO3
product | 7-chloro-2-[[1-carboxy-3-(dimethylamino)propylidene]hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCN(C)C)C(=O)O)C2=C(C=CC=C2)Cl)C1 | C21H21Cl2N5O2
